US04476311
PREPARATION OF 1-N-BENZYL-4-CARBOXY-5-[2,6-DICHLOROPHENYL]-PYRROLIDIN-2-ONE
2,6-Dichlorobenzylidene-benzylamine [100 gm. 0.39 mole] and succinic anhydride [39.0 gm. 0.39 mole] were refluxed with O-xylene [500 ml] for 12 hours. On cooling, the precipitate was filtered and washed with a littleethanol. The solid was recrystallized from ethanol to give white needles. After drying over boiling isobutyl methyl ketone and under vacuum for 5 hours, the title compound had a melting point of 179°-181° C.

reactant | 2,6-Dichlorobenzylidene-benzylamine | 0.39 mole, 100 gm | ClC1=C(C=NCC2=CC=CC=C2)C(=CC=C1)Cl | C14H11Cl2N
reactant | succinic anhydride | 0.39 mole, 39.0 gm | C1(CCC(=O)O1)=O | C4H4O3
solvent | O-xylene | 500 ml | CC=1C=CC=CC1C | C8H10
product | 1-N-BENZYL-4-CARBOXY-5-[2,6-DICHLOROPHENYL]-PYRROLIDIN-2-ONE | C(C1=CC=CC=C1)N1C(CC(C1C1=C(C=CC=C1Cl)Cl)C(=O)O)=O | C18H15Cl2NO3
